US05395934
1-[3-(4-Fluorophenyl)-2-propenyl]-piperazine
To a boiling solution of 32.4 g (376 mmoles) of anhydrous piperazine in 45 ml of anhydrous ethanol a solution of 6.3 g (37 mmoles) of 3-(4-fluorophenyl)-2-propenyl chloride in 60 ml of anhydrous ethanol is dropped under stirring and reflux cooling, within 1 hour. The solvent is removed in vacuo, the residue is dissolved in chloroform and washed with water to be free from piperazine. The organic phase is dried, evaporated and the crude product is--if necessary--distilled off in vacuo. Thus 5.4 g (66%) of the desired compound are obtained. B.p.: 148° C./80 Pa.

reactant | piperazine | 376 mmoles, 32.4 g | N1CCNCC1 | C4H10N2
reactant | 3-(4-fluorophenyl)-2-propenyl chloride | 37 mmoles, 6.3 g | FC1=CC=C(C=C1)C=CCCl | C9H8ClF
solvent | ethanol | 45 ml | C(C)O | C2H6O
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-[3-(4-Fluorophenyl)-2-propenyl]-piperazine | 5.4 g, 66% | FC1=CC=C(C=C1)C=CCN1CCNCC1 | C13H17FN2
